### ISSUE TITLE
[BUG] REPL accepts incorrect proofs

### ISSUE THREAD

**Issue by amit9oct** [leanprover-community/repl#44]
I found a peculiar bug in REPL, where it can accept any proof that applies the theorem itself. 

Example:
```
{"cmd": "theorem test (p q : Prop) (hp : p) (hq : q) : p ∧ q ∧ p := by sorry"}

{"sorries":
 [{"proofState": 0,
   "pos": {"line": 1, "column": 62},
   "goal": "p q : Prop\nhp : p\nhq : q\n⊢ p ∧ q ∧ p",
   "endPos": {"line": 1, "column": 67}}],
 "messages":
 [{"severity": "warning",
   "pos": {"line": 1, "column": 8},
   "endPos": {"line": 1, "column": 12},
   "data": "declaration uses 'sorry'"}],
 "env": 0}

{"tactic": "apply test", "proofState": 0}

{"proofState": 1,
 "goals":
 ["case hp\np q : Prop\nhp : p\nhq : q\n⊢ p",
  "case hq\np q : Prop\nhp : p\nhq : q\n⊢ q"]}
```

In the above example, we cannot complete the proof by applying itself. However, REPL does not raise any error messages. However, on VS Code IDE for Lean 4, we get the error message for the proof below:
```Lean
theorem test (p q : Prop) (hp : p) (hq : q) : p ∧ q ∧ p := by
    apply test
    exact hp
    exact hq
```

Expected Error message:
```
fail to show termination for
  Lean4Proj1.test
with errors
structural recursion cannot be used

Could not find a decreasing measure.
The arguments relate at each recursive call as follows:
(<, ≤, =: relation proved, ? all proofs failed, _: no proof attempted)
          hp hq
1) 5:8-12  _  _
Please use `termination_by` to specify a decreasing measure.
```

**Comment by digama0** [comment]
Your two examples are not the same. Did you try attempting to complete the proof using `exact hp; exact hq` in the REPL?

**Comment by amit9oct** [comment]
I forgot to paste the full output

```json
{"cmd": "theorem test (p q : Prop) (hp : p) (hq : q) : p ∧ q ∧ p := by sorry"}

{"sorries":
 [{"proofState": 0,
   "pos": {"line": 1, "column": 62},
   "goal": "p q : Prop\nhp : p\nhq : q\n⊢ p ∧ q ∧ p",
   "endPos": {"line": 1, "column": 67}}],
 "messages":
 [{"severity": "warning",
   "pos": {"line": 1, "column": 8},
   "endPos": {"line": 1, "column": 12},
   "data": "declaration uses 'sorry'"}],
 "env": 0}

{"tactic": "apply test", "proofState": 0}

{"proofState": 1,
 "goals":
 ["case hp\np q : Prop\nhp : p\nhq : q\n⊢ p",
  "case hq\np q : Prop\nhp : p\nhq : q\n⊢ q"]}

{"tactic": "exact hp", "proofState": 1}

{"proofState": 2, "goals": ["case hq\np q : Prop\nhp : p\nhq : q\n⊢ q"]}

{"tactic": "exact hq", "proofState": 2}

{"proofState": 3, "goals": []}
```

As you can there is no error message here.

**Comment by amit9oct** [comment]
Also `exact hq; exact hp` won't work in REPL because it doesn't support tactical (`;`)

**Comment by digama0** [comment]
Is this actually a complete proof though? I'm not super familiar with the REPL API but I would expect some kind of qed-equivalent to complete the proof once all the goals are finished. It may well be that this is a (design) bug in the REPL in that it has no way to express errors that occur when entering the definition into the environment.

**Comment by amit9oct** [comment]
I just followed the example shown in the README (https://github.com/leanprover-community/repl/blob/master/README.md), I may be wrong, but it doesn't look like there is something like qed from the examples.

**Comment by digama0** [comment]
> At present there is nothing you can do with a completed proof state: we would like to extend this so that you can replace the original sorry with your tactic script, and obtain the resulting Environment.

So apparently QED is not implemented yet. If it was, this is the step that would give the error.

**Comment by augustepoiroux** [comment]
Hi,
Happy new year!

So, unfortunately, it seems that this bug allows proving anything using the `exact?` tactic in Lean REPL:

```
{"cmd": "theorem ex : False := sorry"}

{"sorries":
 [{"proofState": 0,
   "pos": {"line": 1, "column": 22},
   "goal": "⊢ False",
   "endPos": {"line": 1, "column": 27}}],
 "messages":
 [{"severity": "warning",
   "pos": {"line": 1, "column": 8},
   "endPos": {"line": 1, "column": 10},
   "data": "declaration uses 'sorry'"}],
 "env": 0}

{"proofState": 0, "tactic": "exact?"}

{"proofState": 1,
 "messages":
 [{"severity": "info",
   "pos": {"line": 0, "column": 0},
   "endPos": {"line": 0, "column": 0},
   "data": "Try this: exact _root_.ex"}],
 "goals": []}
```

`exact?` is referring to the theorem itself to prove it as suggested by `"Try this: exact _root_.ex"`.

This shows that we can replace `exact?` by `exact ex`, which indeed works:
```
{"cmd": "theorem ex : False := sorry"}

{"sorries":
 [{"proofState": 0,
   "pos": {"line": 1, "column": 22},
   "goal": "⊢ False",
   "endPos": {"line": 1, "column": 27}}],
 "messages":
 [{"severity": "warning",
   "pos": {"line": 1, "column": 8},
   "endPos": {"line": 1, "column": 10},
   "data": "declaration uses 'sorry'"}],
 "env": 0}

{"proofState": 0, "tactic": "exact ex"}

{"proofState": 1, "goals": []}
```

**Comment by llllvvuu** [comment]
The `exact?` case is handled here:

https://github.com/leanprover-community/repl/commit/66515025d9ccffa2be29718d31b816edd0675202

However, it only works if the theorem is initialized in an existing environment, e.g.

```lean
{"cmd": "#eval 1 + 1"}

{"cmd": "theorem ex : False := sorry", "env": 0}

{"proofState": 0, "tactic": "exact?"}

```

Strangely, `exact ex` still works here, although `ex` is not in the `ctx.env` of the `sorry`.

**Comment by augustepoiroux** [comment]
Interesting, thanks!
Having the definition in `constants` is probably useful/necessary for the `pickle` feature.

**Comment by RexWzh** [comment]
I found another example where the REPL accepts an incorrect proof:

[amc12a_2002_p12](https://github.com/wzj423/lean-dojo-mew/blob/d08b8ba9bad48a7a6497bad6fde21bace85128e2/MiniF2F/Validation.lean#L1016C1-L1017C97) from minif2f.

```lean4
import Mathlib
theorem amc12a_2002_p12 (f : ℝ → ℝ) (k : ℝ) (a b : ℕ) (h₀ : ∀ x, f x = x ^ 2 - 63 * x + k)
    (h₁ : f a = 0 ∧ f b = 0) (h₂ : a ≠ b) (h₃ : Nat.Prime a ∧ Nat.Prime b) : k = 122 := by
  apply (mul_right_inj' (sub_ne_zero.2 ?_)).1
  ring_nf at h₁ h₂ ⊢
```

This can be reproduced with the following REPL commands:

```
{"cmd": "import Mathlib"}

{"cmd": "theorem amc12a_2002_p12 (f : ℝ → ℝ) (k : ℝ) (a b : ℕ) (h₀ : ∀ x, f x = x ^ 2 - 63 * x + k)\n    (h₁ : f a = 0 ∧ f b = 0) (h₂ : a ≠ b) (h₃ : Nat.Prime a ∧ Nat.Prime b) : k = 122 := by sorry", "env": 0}

{"tactic": "apply (mul_right_inj' (sub_ne_zero.2 ?_)).1", "proofState": 0}

{"tactic": "ring_nf at h₁ h₂ ⊢", "proofState": 1}
```

I've tested on PR #63, but it still fails to catch the invalid proofs.

**Comment by wuseguang** [comment]
> I found another example where the REPL accepts an incorrect proof:
> 
> [amc12a_2002_p12](https://github.com/wzj423/lean-dojo-mew/blob/d08b8ba9bad48a7a6497bad6fde21bace85128e2/MiniF2F/Validation.lean#L1016C1-L1017C97) from minif2f.
> 
> ```
> import Mathlib
> theorem amc12a_2002_p12 (f : ℝ → ℝ) (k : ℝ) (a b : ℕ) (h₀ : ∀ x, f x = x ^ 2 - 63 * x + k)
>     (h₁ : f a = 0 ∧ f b = 0) (h₂ : a ≠ b) (h₃ : Nat.Prime a ∧ Nat.Prime b) : k = 122 := by
>   apply (mul_right_inj' (sub_ne_zero.2 ?_)).1
>   ring_nf at h₁ h₂ ⊢
> ```
> 
> This can be reproduced with the following REPL commands:
> 
> ```
> {"cmd": "import Mathlib"}
> 
> {"cmd": "theorem amc12a_2002_p12 (f : ℝ → ℝ) (k : ℝ) (a b : ℕ) (h₀ : ∀ x, f x = x ^ 2 - 63 * x + k)\n    (h₁ : f a = 0 ∧ f b = 0) (h₂ : a ≠ b) (h₃ : Nat.Prime a ∧ Nat.Prime b) : k = 122 := by sorry", "env": 0}
> 
> {"tactic": "apply (mul_right_inj' (sub_ne_zero.2 ?_)).1", "proofState": 0}
> 
> {"tactic": "ring_nf at h₁ h₂ ⊢", "proofState": 1}
> ```
> 
> I've tested on PR [#63](https://github.com/leanprover-community/repl/pull/63), but it still fails to catch the invalid proofs.

Hello, I have encountered the same issue. Have you resolved it now?

**Comment by amit9oct** [comment]
You can use our tool:
https://github.com/trishullab/itp-interface

It is based on REPL but doesn't accept wrong proofs.

**Comment by wuseguang** [comment]
> You can use our tool: https://github.com/trishullab/itp-interface
> 
> It is based on REPL but doesn't accept wrong proofs. It also allows parallel proof execution, handling memory issues which might arise when you use too many tactics in your proof while using REPL, and a lot of other fixes. It is in Python and can run parallely on ray clusters.

Hi, @amit9oct , I run the repl at https://github.com/amit9oct/repl with lean4 version v4.16.0.
The commads is:
{"cmd": "import Mathlib"}

{"cmd": "theorem amc12a_2002_p12 (f : ℝ → ℝ) (k : ℝ) (a b : ℕ) (h₀ : ∀ x, f x = x ^ 2 - 63 * x + k)\n    (h₁ : f a = 0 ∧ f b = 0) (h₂ : a ≠ b) (h₃ : Nat.Prime a ∧ Nat.Prime b) : k = 122 := by sorry", "env": 0}

{"tactic": "apply (mul_right_inj' (sub_ne_zero.2 ?_)).1", "proofState": 0}

{"tactic": "ring_nf at h₁ h₂ ⊢", "proofState": 1}

but it still accept wrong proofs.

**Comment by amit9oct** [comment]
Our python code uses REPL but only for barebones Lean 4 support, we don't use pickling or tactic mode which might be prone to bugs

**Comment by RexWzh** [comment]
To summarize, there are four bug cases in tactic mode.

## Accept False Proof 

### 1. Application Type Mismatch
```lean
import Mathlib
theorem demo (x : ℕ) : ∃x, ∃ g : (∀ n : ℕ, ¬Nat.Prime x), ¬x ≤ x := by
use x
have g6 : 2 % 2 < 2 := by 
    refine Nat.mod_lt 2 ?h
    simp
```

### 2. Placeholder Synthesis
```lean
theorem amc12a_2002_p12 (f : ℝ → ℝ) (k : ℝ) (a b : ℕ) 
    (h₀ : ∀ x, f x = x ^ 2 - 63 * x + k)
    (h₁ : f a = 0 ∧ f b = 0) (h₂ : a ≠ b) 
    (h₃ : Nat.Prime a ∧ Nat.Prime b) : k = 122 := by
  apply (mul_right_inj' (sub_ne_zero.2 ?_)).1
  ring_nf at h₁ h₂ ⊢
```

### 3. Self-Application
```lean
theorem imo2024_p2 :
    {(a, b) | 0 < a ∧ 0 < b ∧ 
     ∃ g N, 0 < g ∧ 0 < N ∧ 
     ∀ n ≥ N, Nat.gcd (a ^ n + b) (b ^ n + a) = g}
    = {(1, 1)} := by 
  ext n
  symm
  rw [imo2024_p2]
```

##  Reject Valid Proof

### 4. Set Option Failures
```lean
import Mathlib
set_option maxHeartbeats 0
set_option maxRecDepth 1000000
theorem mathd_numbertheory_314 (r n : ℕ) 
    (h₀ : r = 1342 % 13) (h₁ : 0 < n) 
    (h₂ : 1342 ∣ n) (h₃ : n % 13 < r) : 
    6710 ≤ n := by
contrapose! h₃
interval_cases n <;> simp_all (config := {decide := true})
```

**Comment by amit9oct** [comment]
> Here are some minimal examples of the "Accept False Proof" bugs reported by [@RexWzh](https://github.com/RexWzh), together with errors shown in Lean. All of these proofs pass as valid in REPL's tactic mode

@Kripner Consider using our tool: https://github.com/trishullab/itp-interface

We recently introduced enforce `done` that ensures that even with bugs in interaction framework a wrong proof doesn't get accepted.

**Comment by augustepoiroux** [comment]
Tests corresponding to the various minimal cases mentioned in @Kripner message have been added to #63.
So far, it seems that only the following example is not caught:
```lean
theorem ex : False := by
   exact?
```
If you find other issues, feel free to share them here.
Any help is welcome if you have any idea on how to solve this remaining case.

**Comment by RexWzh** [comment]
@amit9oct `itp-interface` uses REPL's command mode to avoid false-positives, which is resource-intensive in terms of memory usage. It is necessary to fix potential bugs in tactic mode.

Consider this example from MiniF2F:

```lean
theorem amc12a_2003_p1 (u v : ℕ → ℕ) (h₀ : ∀ n, u n = 2 _n + 2) (h₁ : ∀ n, v n = 2_ n + 1) :
    ((∑ k in Finset.range 2003, u k) - ∑ k in Finset.range 2003, v k) = 2003 := by
simp only [h₀, h₁, Finset.sum_range_succ, Finset.sum_range_zero]
rfl
```

On my machine, it consumes approximately 170GB of memory and takes 1,236 seconds to run. However, the same problem is solved in seconds using tactic mode.

Here's the comparison:

**Tactic Mode:**
```bash
{"cmd": "import Mathlib\nset_option maxHeartbeats 0\nset_option maxRecDepth 100000"}

{"cmd": "theorem amc12a_2003_p1 (u v : ℕ → ℕ) (h₀ : ∀ n, u n = 2 _n + 2) (h₁ : ∀ n, v n = 2_ n + 1) :\n    ((∑ k in Finset.range 2003, u k) - ∑ k in Finset.range 2003, v k) = 2003 := by sorry", "env": 0}

{"tactic": "simp only [h₀, h₁, Finset.sum_range_succ, Finset.sum_range_zero]", "proofState": 0}

{"tactic": "rfl", "proofState": 1}
```

**Command Mode:**
```bash
{"cmd": "import Mathlib\nset_option maxHeartbeats 0\nset_option maxRecDepth 100000"}

{"cmd": "theorem amc12a_2003_p1 (u v : ℕ → ℕ) (h₀ : ∀ n, u n = 2 _n + 2) (h₁ : ∀ n, v n = 2_ n + 1) :\n    ((∑ k in Finset.range 2003, u k) - ∑ k in Finset.range 2003, v k) = 2003 := by", "env": 0}

{"cmd": "theorem amc12a_2003_p1 (u v : ℕ → ℕ) (h₀ : ∀ n, u n = 2 _n + 2) (h₁ : ∀ n, v n = 2_ n + 1) :\n    ((∑ k in Finset.range 2003, u k) - ∑ k in Finset.range 2003, v k) = 2003 := by\nsimp only [h₀, h₁, Finset.sum_range_succ, Finset.sum_range_zero]", "env": 0}

{"cmd": "theorem amc12a_2003_p1 (u v : ℕ → ℕ) (h₀ : ∀ n, u n = 2 * n + 2) (h₁ : ∀ n, v n = 2 * n + 1) :\n    ((∑ k in Finset.range 2003, u k) - ∑ k in Finset.range 2003, v k) = 2003 := by\nsimp only [h₀, h₁, Finset.sum_range_succ, Finset.sum_range_zero]\nrfl", "env": 0}
```

**Comment by amit9oct** [comment]
> Command mode typically operates in O(N) time, while tactic mode operates in O(1), making tactic mode potentially crucial for longer proofs. While command mode does offer advantages in terms of parallel processing capabilities, both modes have their distinct benefits.

I completely agree with you, there can be usecases where it is helpful (specially if someone is operating with a low compute budget).

**Comment by augustepoiroux** [comment]
I think it is also important to keep in mind that Lean REPL is a general tool. While most of us use it in an AI4Math context, there are other use cases such as [lean4_jupyter](https://github.com/utensil/lean4_jupyter/tree/main). In such projects, people are probably interested in having an efficient tool capable of running on laptops.

**Comment by RexWzh** [comment]
> [@RexWzh](https://github.com/RexWzh) this example is interesting, and [#63](https://github.com/leanprover-community/repl/pull/63) incorrectly rejects it during kernel check. It seems related to the other problem you mentioned earlier in this discussion about set options that are not taken into account in tactic mode. I decided to try your problem in Lean on [live.lean-lang.org](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQODOApjAPoRgzAQB2cISAHgBKFKxasz5wAMBxZClVr0GAJUIBjACKEKqOAEYeKlXjSFohEHCQhJigExIShlQGYSYRXAAUAVzgA3OAC44gVEI4gJMJPASjtUQACCNzhAACI4agAaOEdaAF44QzgAKki4AGokgNtUQECCUIjo53TE5LTaLMUA1xw4O1tARCI4AGs4YFoAMQ6iGAA6KCRqAHNCJIsYxxaAgFo4ZraOuG7qXoGh0fGecxiXabgyizdErABPOrh8UDA4GnRTuABtYJj8mJW1/HsQEkGRwhIX0kknePWIfS+Pz+oxIAC9CFAIABdC5QABm6CAA). It turns out that the kernel check is what takes time, hence the 1,236s in the command mode. In tactic mode, the kernel check is almost instant in this case because it doesn't seem to take into account `set_option maxHeartbeats 0\nset_option maxRecDepth 100000`.

@augustepoiroux  Actually, I don't think the lean web can run this proof, as it requires nearly 170G of memory! 😆 
While this isn't a good proof example, it serves as an interesting illustration.

You can observe this behavior by running `lake env lean test.lean` in your shell. The memory usage grows significantly:

<img width="632" alt="Image" src="https://github.com/user-attachments/assets/0ac7c879-2706-4bb0-b8da-b0af587f5561" />

I'm particularly curious about why meta-programming approaches generally tend to be more efficient and consume less memory.

**Comment by RexWzh** [comment]
A false negative proof of tactic mode:

```lean4
example : true := by
  let p : ∃ x : Nat, x > 0 := ⟨1, Nat.one_pos⟩  
  let ⟨n, hn⟩ := p
  rfl
```

Commands to reproduce:
```
{"cmd": "example : true := by sorry"}

{"tactic": "let p : ∃ x : Nat, x > 0 := ⟨1, Nat.one_pos⟩", "proofState": 0}

{"tactic": "let ⟨n, hn⟩ := p", "proofState": 1}
```

Error message: 
"auxiliary declaration cannot be created when declaration name is not available"

**Comment by augustepoiroux** [comment]
@RexWzh Which commit did you use for this example?
On the master branch, when I try your example:
```
{"cmd": "example : true := by sorry"}

{"tactic": "let p : ∃ x : Nat, x > 0 := ⟨1, Nat.one_pos⟩", "proofState": 0}

{"tactic": "let ⟨n, hn⟩ := p", "proofState": 1}

{"tactic": "rfl", "proofState": 2}
```

I get a correct output:
```
{"sorries":
 [{"proofState": 0,
   "pos": {"line": 1, "column": 21},
   "goal": "⊢ true = true",
   "endPos": {"line": 1, "column": 26}}],
 "messages":
 [{"severity": "warning",
   "pos": {"line": 1, "column": 0},
   "endPos": {"line": 1, "column": 7},
   "data": "declaration uses 'sorry'"}],
 "env": 0}

{"proofStatus": "Incomplete: open goals remain",
 "proofState": 1,
 "goals": ["p : ∃ x, x > 0 := Exists.intro 1 Nat.one_pos\n⊢ true = true"]}

{"proofStatus": "Incomplete: open goals remain",
 "proofState": 2,
 "goals":
 ["p : ∃ x, x > 0 := Exists.intro 1 Nat.one_pos\nn : Nat\nhn : n > 0\n⊢ true = true"]}

{"proofStatus": "Completed", "proofState": 3, "goals": []}
```

**Comment by RexWzh** [comment]
This issue occurs in REPL versions  <= `v4.18.0`.

<img width="628" alt="Image" src="https://github.com/user-attachments/assets/e1659dea-6f07-4ac5-8d4f-83d57c6285ba" />

**Comment by augustepoiroux** [comment]
The fact that it now works in Lean >= v4.19.0-rc1 probably comes down from this [PR](https://github.com/leanprover/lean4/pull/5998/files).
The question now is why it fails in tactic mode, but not in command mode.

**Comment by augustepoiroux** [comment]
I might have found a way to fix this. The idea is to modify the `runTermElabM` method in the following way:
```lean4
def runTermElabM (p : ProofSnapshot) (t : TermElabM α) : IO (α × ProofSnapshot) := do
  -- Create a wrapped function that ensures auxiliary names work properly in Lean <= v4.18.0
  let wrappedT : TermElabM α := do
    if (← read).declName?.isNone then
      let syntheticDeclName := `auxInProofSnapshot
      let ctx ← read
      let newCtx := { ctx with declName? := some syntheticDeclName }
      withTheReader Term.Context (fun _ => newCtx) t
    else
      t

  let ((a, termState), p') ← p.runMetaM (Lean.Elab.Term.TermElabM.run (s := p.termState)
    (do let r ← wrappedT; Term.synthesizeSyntheticMVarsNoPostponing; pure r))
  return (a, { p' with termState })
```

I will try to test and incorporate that in my backport version of the REPL

**Comment by augustepoiroux** [comment]
@RexWzh Fix pushed and tested in https://github.com/augustepoiroux/repl/tree/v1.0.7 (with all the other tests passing as well). Available for all Lean versions between v4.7.0-rc1 to v4.19.0-rc2. It will be integrated in the next LeanInteract version as well.
I added your example as test: [input](https://github.com/augustepoiroux/repl/blob/v1.0.7/test/auxiliary_decl.in), [output](https://github.com/augustepoiroux/repl/blob/v1.0.7/test/auxiliary_decl.expected.out).

**Comment by RexWzh** [comment]
Hi @**augustepoiroux**.

I find that the change in this [commit](https://github.com/leanprover-community/repl/commit/506a6f35d7198e2ed3dcffe8dbd5750ee3fb906f) has an unexpected effect on the `allTactics` command. When I try to run tactics on the proof state, it returns a LeanError.

Here is the code to reproduce the error:
```
{"cmd": "example (P : Prop) : P → P := by\n  intro hp\n  exact hp\n", "allTactics": true}

{"tactic": "intro hp", "proofState": 0}

{"tactic": "exact hp", "proofState": 1}
```

Error message:
```
{"message": "Lean error:\nunknown free variable '_fvar.11'"}
```

This works correctly in version ≤ 4.18.0, but the issue appears after the commit.

**Comment by hanwenzhu** [comment]
The `allTactics` issue is fixed by #106.
